US07816357B2
Preparation of 1-(6-Chloro-4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine
To a r.b. flask was added 3,5-dichloro-4,5-bis(4-chlorophenyl)pyridazine (4.5 gm, 12.2 mmol), pyridine (20 ml) and hydrazine monohydrate (1.494 gm, 30.49 mmol). The reaction mixture was stirred at 120° C. for 1 h. After this time, the reaction mixture was cooled to RT Water (400 ml) was then added and a solid precipitated. The solution was filtered and the solid was collected and air dried overnight to give the title compound, 1-(6-chloro-4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine (3.7 gm, 83% yield) as a solid. MS (M+H)=364.9.

reactant | 3,5-dichloro-4,5-bis(4-chlorophenyl)pyridazine | 12.2 mmol, 4.5 gm | ClC1=NN=CC(C1C1=CC=C(C=C1)Cl)(C1=CC=C(C=C1)Cl)Cl | C16H10Cl4N2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrazine monohydrate | 30.49 mmol, 1.494 gm | O.NN
solvent | Water | 400 ml | O | H2O
product | 1-(6-chloro-4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine | 3.7 gm, 83% yield | ClC1=C(C(=C(N=N1)NN)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C16H11Cl3N4
